US04873255
7-Acetoxy-2,8-dimethyl-2-(4-nitrophenoxymethyl)-4-oxochroman
3.3 g of acetic anhydride were added to a mixture of 9.3 g of 7-hydroxy-2,8-dimethyl-2-(4-nitrophenoxymethyl)-4-oxochroman (prepared as described in Preparation 16), 50 ml of pyridine and 50 ml of benzene and allowed to stand overnight. The reaction mixture was then poured into water and extracted with benzene. The benzene extract was washed with 5% w/v aqueous hydrochloric acid and then with water, after which it was dried over anhydrous sodium sulfate. The solvent was then distilled off under reduced pressure. The residue was subjected to silica gel column chromatography eluted with a 20:1 by volume mixture of benzene and ethyl acetate, to obtain 9.7 g of the title compound as a pale yellow oily substance.

reactant | acetic anhydride | 3.3 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 7-hydroxy-2,8-dimethyl-2-(4-nitrophenoxymethyl)-4-oxochroman | 9.3 g | OC1=CC=C2C(CC(OC2=C1C)(COC1=CC=C(C=C1)[N+](=O)[O-])C)=O | C18H17NO6
reactant | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
reactant | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 7-Acetoxy-2,8-dimethyl-2-(4-nitrophenoxymethyl)-4-oxochroman | 9.7 g | C(C)(=O)OC1=CC=C2C(CC(OC2=C1C)(COC1=CC=C(C=C1)[N+](=O)[O-])C)=O | C20H19NO7
